Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fatigue and palpitations at rest/known AS 

 
Major Surgical or Invasive Procedure:
___ Aortic valve replacement, 19-mm ___ 
mechanical Regent valve.

 
History of Present Illness:
This ___ year old white female presents for preoperative 
admission for bridge from Coumadin to Heparin with atrial 
fibrillation diagnosed in ___ and an incidental finding of 
aortic stenosis.  She underwent surgical evaluation for aortic 
valve replacement including cardiac catheterization that 
revealed
no coronary artery disease and dental consultation that she 
neede six teeth extracted.  She presents today preoperative for 
AVR with ___.

 
Past Medical History:
Severe Aortic stenosis ___ 0.7cm2)
Hypertension
Paroxysmal atrial fibrillation
Arthritis

 
Social History:
___
Family History:
Family History: father died ___ MI

 
Physical Exam:
Pulse: 76  Resp: 20 O2 sat: 99%RA
B/P  ___
Height: ___    Weight: 144.8 Lbs

General: no acute distress 
Neuro: A&Ox3, non focal exam
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x] 
Neck:  Supple [x] Full ROM [x] no JVD, 
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur: ___ SEM
Abdomen: Soft[x] non-distended x] non-tender[x] +bowel sounds 
[x]
Extremities: Warm [x] well-perfused [x]  Edema: none
Varicosities: None [x]
Pulses:
Femoral      Right:  Left: 
DP           Right: 2+  Left: 2+
___           Right:  Left: 
Radial       Right: 2+  Left: 2+

Carotid Bruit    Right: murmur vs bruit    Left: murmur vs bruit

 
Pertinent Results:
Pre-op Labs
___ 05:16PM   ___ PTT-22.4 ___
___ 05:16PM   PLT COUNT-307
___ 05:16PM   WBC-8.3# RBC-4.53 HGB-13.2 HCT-40.5 MCV-89 
MCH-29.1 MCHC-32.6 RDW-14.6
___ 05:16PM   %HbA1c-6.0* eAG-126*
___ 05:16PM   ALBUMIN-4.6 MAGNESIUM-2.0
___ 05:16PM   LIPASE-27
___ 05:16PM   ALT(SGPT)-22 AST(SGOT)-18 LD(LDH)-163 ALK 
PHOS-121* AMYLASE-73 TOT BILI-0.2
___ 05:16PM   GLUCOSE-95 UREA N-21* CREAT-0.7 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-30 ANION GAP-15
___ 05:45PM URINE  ___ BACTERIA-RARE YEAST-NONE 
___ 05:45PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-TR
___ 05:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
 
___ ECHOCARDIOGRAPHY REPORT
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Septal Wall Thickness:  *1.4 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  *1.5 cm  0.6 - 1.1 cm 
 
Left Ventricle - Ejection Fraction:  55% to 65%  >= 55%  
Aorta - Ascending:  2.6 cm  <= 3.4 cm  
Aortic Valve - Peak Velocity:  *3.6 m/sec  <= 2.0 m/sec  
Aortic Valve - Peak Gradient:  *54 mm Hg  < 20 mm Hg  
Aortic Valve - LVOT diam:  2.0 cm     
Aortic Valve - Valve Area:  *0.8 cm2  >= 3.0 cm2   
Findings  
LEFT ATRIUM: Moderate ___. No spontaneous echo 
contrast is seen in the ___. Good (>20 cm/s) ___ ejection 
velocity. No thrombus in the ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. A catheter 
or pacing wire is seen in the RA and extending into the RV. No 
ASD by 2D or color Doppler. 
LEFT VENTRICLE: Moderate symmetric LVH. Normal LV cavity size. 
Overall normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. Normal aortic arch diameter. Normal 
descending aorta diameter. Simple atheroma in descending aorta. 
AORTIC VALVE: Three aortic valve leaflets. Severely 
thickened/deformed aortic valve leaflets. Severe AS (area 
0.8-1.0cm2). Mild (1+) AR. 
MITRAL VALVE: Mild (1+) MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The patient was under general anesthesia throughout 
the procedure. The patient received antibiotic prophylaxis. The 
TEE probe was passed with assistance from the anesthesioology 
staff using a laryngoscope. No TEE related complications. 
Results were personally reviewed with the MD caring for the 
patient.  
REGIONAL LEFT VENTRICULAR WALL MOTION:  
     N = Normal, H = Hypokinetic, A = Akinetic, D = Dyskinetic  
Conclusions  
PRE-CPB:1. The left atrium is moderately dilated. No spontaneous 
echo contrast is seen in the left atrial appendage. No thrombus 
is seen in the left atrial appendage.
2. No atrial septal defect is seen by 2D or color Doppler.
3. There is moderate symmetric left ventricular hypertrophy. The 
left ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). 
4. Right ventricular chamber size and free wall motion are 
normal. 
5. There are simple atheroma in the descending thoracic aorta. 
6. There are three aortic valve leaflets. The aortic valve 
leaflets are severely thickened/deformed. There is severe aortic 
valve stenosis (valve area 0.8-1.0cm2). Mild (1+) aortic 
regurgitation is seen. 
7. Mild (1+) mitral regurgitation is seen. 
Dr. ___ was notified in person of the results. 
POST-CPB: On infusion of phenylephrine and amiodarone. AV pacing 
for first degree block. Well-seated mechanical valve in the 
aortic position with trivial AI, no paravalvular leak. The 
gradient is 16 mmHg at a cardiac output of 4.2 L/min. 
Biventricular systolic function remains normal. MR is mild. The 
aortic contour is normal post decannulation.   
     

 
Brief Hospital Course:
Following admission heparin was begun and on the ___ she 
went to the Operating Room where aortic valve replacement was 
performed (see operative note for details).  Post operatively 
she was admitted to the ICU intubated and sedated for 
hemodynamic and pulmonary monitoring and management. She awoke 
from sedation and was weaned from the ventilator and extubated. 
CTs and pacing wires were removed per protocol.  She was 
transferred to the stepdown unit where Physical Therapy worked 
with her for strength and mobility.
She was diuresed toward her preoperative weight. Betablockers 
and ace-I were titrated to effect. A statin was not started due 
to clean coronaries. 
Coumadin was dosed daily for the prosthetic valve and 
arranagements were made to have the Coumadin managed by the 
clinic at ___. Follow up instructons and appointments were 
advised.

 
Medications on Admission:
Metoprolol 50 BID
Wellbutrin XL 150 mg daily 
Warfarin 5 ___, ___, ___ and ___

 
Discharge Medications:
1. amiodarone 200 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day): 200mg BID x 1 week then 200mg QD.
Disp:*40 Tablet(s)* Refills:*1*
2. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 2 weeks.
Disp:*30 Tablet(s)* Refills:*0*
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
5. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).
Disp:*30 Tablet Extended Release(s)* Refills:*1*
6. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain, fever.  
8. Coumadin 2.5 mg Tablet Sig: as directed Tablet PO once a day: 
as directed by ___.
Disp:*100 Tablet(s)* Refills:*2*
9. influenza vaccine tr-s 10 (PF) 45 mcg (15 mcg x 3)/0.5 mL 
Syringe Sig: One (1) ML Intramuscular NOW X1 (Now Times One 
Dose) for 1 doses.  
10. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
11. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. Outpatient Lab Work
Labs: ___ for Coumadin – indication- MECHANICAL AORTIC VALVE
Goal INR ___
First draw day after discharge ___
Results to ___: ___
13. Lasix 40 mg Tablet Sig: One (1) Tablet PO twice a day for 10 
days.
Disp:*20 Tablet(s)* Refills:*0*
14. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
Two (2) Tablet, ER Particles/Crystals PO once a day for 10 days: 
take this medication while taking lasix.
Disp:*20 Tablet, ER Particles/Crystals(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis
s/p Aortic ___ replacement 
Hypertension
paroxysmal atrial fibrillation
Arthritis

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating with steady gait
Incisional pain managed with Percocet
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema:2+ lower extremity edema and upper extremity edema 
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___